US09315521B2
To a 0° C. solution of 5-fluoropyridine-3-carbaldehyde (500 mg, 4.0 mmol) in anhydrous methanol (20 mL) was added sodium borohydride (150 mg, 4.0 mmol). The reaction mixture was stirred at room temperature for 3 hours. Saturated ammonium chloride solution (20 mL) was added. The resultant mixture was extracted with EtOAc (3×20 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (5-fluoropyridin-3-yl)methanol (430 mg, 85% yield). The product was used without further purification.

reactant | 5-fluoropyridine-3-carbaldehyde | 4.0 mmol, 500 mg | FC=1C=C(C=NC1)C=O | C6H4FNO
reactant | sodium borohydride | 4.0 mmol, 150 mg | [BH4-].[Na+]
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
product | (5-fluoropyridin-3-yl)methanol | 430 mg, 85% yield | FC=1C=C(C=NC1)CO | C6H6FNO
